US07439242B2
This example illustrates the preparation of 4-(3-chloro-5-pyridyloxy)-3-(4-iodobenzenesulfonamido)benzotrifluoride
Using the method of Example 17.4, 4-(3-chloro-5-pyridyloxy)-3-aminobenzotrifluoride (0.41 g) and 4-iodobenzenesulfonyl chloride (0.30 g) were combined to provide the title compound (0.34 g) as crystals directly from the reaction mixture. mp 192-193° C.

reactant | 4-(3-chloro-5-pyridyloxy)-3-aminobenzotrifluoride | 0.41 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)N | C12H8ClF3N2O
reactant | 4-iodobenzenesulfonyl chloride | 0.30 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
product | 4-(3-chloro-5-pyridyloxy)-3-(4-iodobenzenesulfonamido)benzotrifluoride | 0.34 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)I | C18H11ClF3IN2O3S
